US08053438B2
To the solution of N-methoxy-N-methylpiperidine-4-carboxamide (40 g, 232 mmol) in acetone (400 mL) was added benzyl bromide (42 mL, 349 mmol) and K2CO3 (64 g, 465 mmol) and the reaction mixture was stirred at 80° C. under reflux for 16 h. After completion of the reaction, the reaction mixture was filtered and acetone was removed under reduced pressure. The residue was purified by silica gel column chromatography (eluting with 50% ethyl acetate in hexane) to afford 1-benzyl-N-methoxy-N-methylpiperidine-4-carboxamide product. [M+1]=263.15

reactant | N-methoxy-N-methylpiperidine-4-carboxamide | 232 mmol, 40 g | CON(C(=O)C1CCNCC1)C | C8H16N2O2
reactant | benzyl bromide | 349 mmol, 42 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | K2CO3 | 465 mmol, 64 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 400 mL | CC(=O)C | C3H6O
product | 1-benzyl-N-methoxy-N-methylpiperidine-4-carboxamide | C(C1=CC=CC=C1)N1CCC(CC1)C(=O)N(C)OC | C15H22N2O2
